US06277818B1
4-((9-Fluorenylmethyloxycarbonyl)amino)aniline is prepared from p-phenylenediamine (2.16 g, 0.02 mole) and N-(9-fluorenylmethoxycarbonyloxy)succinimide (6.75 g, 0.02 mole) in dioxane-water (1:1). Purification is achieved by crystallization. This product is coupled to BOC-L-Glu-α-O-Benzyl using HOBT/DCC. After the usual work-up, the fully-protected amino acid derivative is dissolved in MeOH and treated with hydrogen gas at 1 atmosphere pressure in the presence of palladium-on-carbon catalyst until hydrogen consumption is complete (about 2 hours). Following the usual workup, the starting material:

reactant | p-phenylenediamine | 0.02 mole, 2.16 g | C1=CC(=CC=C1N)N | C6H8N2
reactant | N-(9-fluorenylmethoxycarbonyloxy)succinimide | 0.02 mole, 6.75 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
solvent | dioxane water | O1CCOCC1.O
product | 4-((9-Fluorenylmethyloxycarbonyl)amino)aniline | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1=CC=C(N)C=C1 | C21H18N2O2
